US08304443B2
Cyclobutyl(2-fluoro-4-hydroxyphenyl)methanone
Under nitrogen atmosphere, 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile (9.49 g), which can be prepared according to the method described in Reference example 1, etc., was dissolved in dehydrated THF (30 mL; manufactured by Kanto Chemical Co., Inc.), and then 0.78 mol/L-cyclobutylmagnesium bromide-diethyl ether solution [60 mL; magnesium (9.18 g) was suspended in diethyl ether (20 mL; manufactured by Kanto Chemical Co., Inc.), added with a small amount of iodine, and then stirred at room temperature for 15 minutes. To the reaction solution, dehydrated diethyl ether (10 mL; manufactured by Kanto Chemical Co., Inc.) was added and bromocyclobutane (6.974 mL) dissolved in dehydrated diethyl ether (50 mL; manufactured by Kanto Chemical Co., Inc.) was added dropwise thereto. Upon the completion of the dropwise addition, the mixture was stirred at room temperature for 1 hour to obtain a solution. Part of the solution was titrated by using 0.1 mol/L hydrochloric acid to obtain the concentration of 0.78 mol/L.] was added dropwise thereto. Upon the completion of the dropwise addition, the reaction solution was stirred at room temperature for 15 minutes, added with copper bromide (95.4 mg) and stirred for 0.5 hours at reflux. After cooling to 0° C., water (30 mL) and 5 mol/L hydrochloric acid (30 mL) were added to the reaction solution. After stirring for 1 hour at reflux, the reaction solution was cooled to the room temperature, and then extracted three times with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was dissolved in dehydrated THF (76 mL; manufactured by Kanto Chemical Co., Inc.), added with 1 mol/L-TBAF-THF solution (38 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.), and stirred for 5 minutes at room temperature. To the reaction solution, water and brine were added and extraction was carried out twice with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved with diethyl ether, extracted with an aqueous solution of 2 mol/L-sodium hydroxide. The aqueous layer was washed six times with diethyl ether. To the aqueous layer, 2 mol/L hydrochloric acid was added, and extraction was carried out twice with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, the title compound (6.967 g) was obtained.

reactant | 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile | 9.49 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C#N)C=C1)F | C13H18FNOSi
reactant | cyclobutylmagnesium bromide diethyl ether | C1(CCC1)[Mg]Br.C(C)OCC
reactant | magnesium | 9.18 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | bromocyclobutane | 6.974 mL | BrC1CCC1 | C4H7Br
reactant | hydrochloric acid | 0.1 mol/L | Cl | ClH
reactant | hydrochloric acid | 5 mol/L, 30 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | copper bromide | 95.4 mg | [Cu](Br)Br
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | water | 30 mL | O | H2O
product | Cyclobutyl(2-fluoro-4-hydroxyphenyl)methanone | 6.967 g | C1(CCC1)C(=O)C1=C(C=C(C=C1)O)F | C11H11FO2
